

***********************************************************
* CDL produced by pvsBuildNetlist on Sep 12 15:00:54 2026 *
***********************************************************


*pvsViewList = auLvs schematic
*pvsStopList = ("auLvs")
*pvsSimName  = auLvs



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt Trim Vss d<0> d<1> d<2> d<3> d<4> drain
*PVSCELL netlisted from sky130_analog_lib Trim schematic
  CC0 drain net3 cap c=1.25f
  CC1 drain net16 cap c=1.25f
  CC2 drain net12 cap c=1.25f
  CC3 drain net8 cap c=1.25f
  CC4 drain net4 cap c=1.25f
  MNM0 net8 d<3> Vss Vss nfet_01v8 m=1 l=300n w=1u
  MNM1 net12 d<2> Vss Vss nfet_01v8 m=1 l=300n w=1u
  MNM2 net4 d<4> Vss Vss nfet_01v8 m=1 l=300n w=1u
  MNM3 net16 d<1> Vss Vss nfet_01v8 m=1 l=300n w=1u
  MNM4 net3 d<0> Vss Vss nfet_01v8 m=1 l=300n w=1u
.ends Trim


.subckt Comparator Clk Out_N Out_P Trima<0> Trima<1> Trima<2> Trima<3> Trima<4>
+  Trimb<0> Trimb<1> Trimb<2> Trimb<3> Trimb<4> Vdd Vn Vp Vss
*PVSCELL netlisted from sky130_analog_lib Comparator schematic
  XI0 Trim $PINS Vss=Vss d<0>=Trima<0> d<1>=Trima<1> d<2>=Trima<2> d<3>=Trima<3>
+  d<4>=Trima<4> drain=net2
  XI1 Trim $PINS Vss=Vss d<0>=Trimb<0> d<1>=Trimb<1> d<2>=Trimb<2> d<3>=Trimb<3>
+  d<4>=Trimb<4> drain=net3
  MNM0 Out_P Out_N net3 Vss nfet_01v8 m=1 l=300n w=1u
  MNM1 Out_N Out_P net2 Vss nfet_01v8 m=1 l=300n w=1u
  MNM2 net2 Vn net25 Vss nfet_01v8 m=1 l=300n w=1u
  MNM3 net3 Vp net25 Vss nfet_01v8 m=1 l=300n w=1u
  MNM4 net25 Clk Vss Vss nfet_01v8 m=1 l=300n w=1u
  MPM0 Out_N Clk Vdd Vdd pfet_01v8 m=1 l=300n w=1u
  MPM2 Out_N Out_P Vdd Vdd pfet_01v8 m=1 l=300n w=1u
  MPM3 Out_P Out_N Vdd Vdd pfet_01v8 m=1 l=300n w=1u
  MPM4 Out_P Clk Vdd Vdd pfet_01v8 m=1 l=300n w=1u
  MPM5 net3 Clk Vdd Vdd pfet_01v8 m=1 l=300n w=1u
  MPM6 net2 Clk Vdd Vdd pfet_01v8 m=1 l=300n w=1u
.ends Comparator


***********************************************************
*             Completed at Sep 12 15:00:54 2026           *
***********************************************************
